US09382238B2
To a mixture of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (300 mg, 0.729 mmol), 3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)aniline (195 mg, 0.802 mmol), and Et3N (0.203 ml, 1.458 mmol) in DCM (15 ml) was added HATU (333 mg, 0.875 mmol) at 25° C. Then the mixture was stirred for 2 h, the mixture was concentrated to give the residue which was extracted with DCM (30 mL×2). The organic extract was washed with brine (20 mL), dried over Na2SO4, filtered and concentrated. The crude product was purified by preparative TLC (DCM:MeOH=30:1, Rf=0.7) to yield 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)phenyl)acetamide (60 mg, 0.094 mmol, 13% yield): 1H NMR (400 MHz, MeOD-d4) δ 8.52 (br. s., 1H), 7.99 (br. s., 1H), 7.95 (br. s., 1H), 7.42-7.39 (m, 2H), 7.30 (d, J=8.4 Hz, 3H), 6.89 (d, J=8.6 Hz, 3H), 6.52-6.50 (m, 1H), 5.11 (br. s., 2H), 4.64-4.62 (m, 2H), 4.31 (d, J=7.1 Hz, 2H), 2.63 (br. s., 3H), 1.38 (t, J=7.1 Hz, 3H); ES-LCMS m/z 637 (M+H).

reactant | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.729 mmol, 300 mg | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)aniline | 0.802 mmol, 195 mg | CC1=NN=C(O1)C=1C=C(N)C=C(C1)C(F)(F)F | C10H8F3N3O
reactant | Et3N | 1.458 mmol, 0.203 ml | CCN(CC)CC | C6H15N
reactant | HATU | 0.875 mmol, 333 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)phenyl)acetamide | 0.094 mmol, 60 mg, 13% yield | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=CC(=C1)C(F)(F)F)C=1OC(=NN1)C)F | C33H28F4N4O5
